Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ female w hc breast cancer s/p mastectomy in ___ 
with lifelong smoking history presenting for evaluation of low 
back pain and leg weakness worsening over the past 3 weeks. Pt 
reports midline and lateral low back pain. The pain radiates 
down her left buttock into her leg. Pain is worse with walking. 
Has proximal leg weakness bilaterally. She does report some 
involuntary urination with sneezing. Has not had any trauma to 
her back. She denies fever or chills, new incontinence/ 
retention of stool or urine.  

In the ED, initial VS were T97, HR 100, BP 124/70, RR 14, 98% on 
RA.  
Exam notable for intact rectal tone, ___ strength in right lower 
extremity, ___ in left lower extremity. Sensation intact, unable 
to elicit patellar reflexes. Patient cannot walk due to 
pain/weakness.   
Labs showed WBCs 10.1, H/h 14.1/40.9, platelets 275, chemistry 
panel within normal limits, UA unremarkable.   
Imaging showed MRI lumbar and thoracic spine with multiple 
osseous lesions throughout thoracolumbar spine compatible with 
osseous metastasis, no evidence of cord compression. lever 
lesions, possible R perihilar speculated mass.   
Received Acetaminophen 1g and Nicotine patch.  
Transfer VS were 97.6, HR 79, BP 128/63, RR 16, O2 98% on RA 
Ortho spine was consulted, neuro exam intact and no signs of 
cauda equine syndrome. No plan for surgical intervention and 
patient can perform activity as tolerated. 
Rad onc was consulted at 1615 on ___ with plan to see patient 
today.
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports ongoing lower back pain 
and hip pain that has been worsening since she fractured her arm 
___. She has had back pain prior to ___ that was 
intermittent. She reports it is an aching pain that radiates 
down the back of her L leg. She notes weakness in her proximal 
muscles when she tries to stand from a seated position. She has 
not had tingling or numbness in her legs. She has not noted 
urinary retention or incontinence, although she noted an 
abnormal odor to her urine. She reports loosing a few pound 
since she broke her arm. She finds she is not hungry and makes 
herself eat scheduled meals. Denies fevers, chills, nausea, 
vomiting. 
 
Past Medical History:
Breast cancer s/p radical mastectomy
Appendectomy - age ___
Psychiatric disorder with paranoid delusions
 
Social History:
___
Family History:
Mother: age ___, Living
Father: ___ infarction at age ___, heart murmur, deceased
Grandmother: diagnosed with breast cancer in her ___
Maternal uncle: diabetes
 
Physical ___:
ADMISSION EXAM
==============
VS: 97.7 149 / 82 79 18 95 RA 
GENERAL: NAD, lying comfortably in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
BREAST: Deferred for patient comfort given family members at 
bedside
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, strength ___ in bilateral lower 
extremities and in left upper extremity. Difficult to assess 
right upper extremity given fracture of right arm, handgrip 
strength intact. Sensation to light touch intact bilaterally. 
Patellar reflexes 2+ bilaterally. Unsteady gait, shuffling and 
waddling while walking.   
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM
==============
VS - 97.8 122 / 79 80 20 95 Ra   
GENERAL: NAD, lying comfortably in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly   
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, strength ___ in bilateral lower 
extremities and in left upper extremity. Difficult to assess 
right upper extremity given fracture of right arm, handgrip 
strength intact. Sensation to light touch intact bilaterally. 
Patellar reflexes 2+ bilaterally. Unsteady gait, shuffling and 
waddling while walking.   
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:26PM BLOOD WBC-10.1* RBC-4.54 Hgb-14.1 Hct-40.9 
MCV-90 MCH-31.1 MCHC-34.5 RDW-12.6 RDWSD-41.8 Plt ___
___ 01:26PM BLOOD Neuts-60.7 ___ Monos-6.0 Eos-4.8 
Baso-0.8 Im ___ AbsNeut-6.11* AbsLymp-2.76 AbsMono-0.60 
AbsEos-0.48 AbsBaso-0.08
___ 01:26PM BLOOD Glucose-82 UreaN-13 Creat-0.6 Na-140 
K-3.7 Cl-105 HCO3-22 AnGap-17

DISCHARGE LABS
==============
___ 06:36AM BLOOD WBC-7.1 RBC-4.41 Hgb-13.8 Hct-40.0 MCV-91 
MCH-31.3 MCHC-34.5 RDW-12.6 RDWSD-41.4 Plt ___
___ 06:36AM BLOOD Glucose-87 UreaN-12 Creat-0.5 Na-141 
K-3.6 Cl-104 HCO3-22 AnGap-19
___ 06:36AM BLOOD ALT-25 AST-46* AlkPhos-220* TotBili-0.6
___ 06:36AM BLOOD Calcium-9.6 Phos-4.4 Mg-1.8

MICRO
=====
      **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
=======
MRI THORACIC/LUMBAR ___:
1. Multiple osseous lesions throughout the thoracolumbar spine, 
compatible
with osseous metastasis, with mild loss of T9 vertebral body 
height.
2. No evidence of neoplastic cord compression or cord edema.  
However,
postcontrast imaging would be helpful to evaluate for enhancing 
soft tissue
component.
3. Focal disc protrusion at T7-8 flattening the right anterior 
aspect of the
spinal cord.
4. Numerous liver lesions, suspicious for liver metastasis.
5. Right perihilar spiculated mass with possible postobstructive 
atelectasis,
which is difficult to further characterize on MRI imaging.

CT HEAD ___:
1. Innumerable calvarial lytic lesions consistent with 
metastatic disease. 
The dominant lytic lesion in the right vertex demonstrates 
involvement of the falx and intracranial extension with 
associated brain edema suggesting brain invasion.  MRI of the 
brain can further evaluate brain parenchymal
involvement.
2. Choroid thickening of the left eye, concerning for metastatic 
disease.

MRI HEAD ___:
INDICATION:  ___ year old woman with known metastatic breast 
cancer with CT 
head concerning for brain mets with edema.// assess for brain 
mets 
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After 
administration of 8 mL of Gadavist intravenous contrast, axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T1 
technique. Sagittal 
MPRAGE imaging was performed and re-formatted in axial and 
coronal 
orientations. 
COMPARISON:  ___ head CT with and without contrast 
FINDINGS:   
There are numerous enhancing calvarial metastatic lesions as 
demonstrated on the recent CT scan.  The largest lesion is at 
the vertex measuring 37 x 38 x 28 mm (100a:103, 101a:95) with 
intracranial extension and enhancing soft tissue extending along 
the parietal dura and falx, surrounding the superior sagittal 
sinus.  Loss of T2 flow void of a short segment of the superior 
sagittal sinus and a filling defect in this region on coronal 
postcontrast images (12:22; 101a:94) is suspicious for sinus 
invasion and partial occlusion.  In close association with this 
mass is a 7 mm focus of enhancement in the right superior 
perirolandic region with surrounding vasogenic edema, concerning 
for parenchymal invasion.  Multiple additional calvarial lesions 
also break through the inner cortex and abut the dura without 
definite brain invasion.  Enhancing lesions of the visualized 
upper cervical vertebra is also concerning for metastatic 
disease.  Punctate focus of linear enhancement in the right 
Meckel's cave (series 101 a, image 63) is felt most likely to 
represent venous structure. 
  
There is approximately 1 cm dural-based enhancing lesion arising 
from the 
right middle cranial fossa (100a:33).  Also noted are several 
subcentimeter supratentorial intraparenchymal metastatic foci, 
for example in the right frontal lobe (100a:88), left posterior 
parietal lobe (100a:69), left temporal lobe (100a:45).  Multiple 
bilateral cerebellar lesions are also present, the largest of 
which measures 7 mm (100a:30).  There is a punctate focus of 
enhancement in the midbrain (100a:50).  There is minimal edema 
associated with the subcentimeter intraparenchymal lesions, if 
any. 
  
There is no evidence of hemorrhage or acute infarction.  The 
ventricles and sulci are age-appropriate.  There is no shift of 
normally midline structures.  Principal intracranial arterial 
flow voids are preserved.  The dural venous sinuses are patent 
on postcontrast MP-RAGE.  Mild fluid signal is noted in the 
ethmoid air cells. 
  
There is asymmetric FLAIR hyperintense signal of the right globe 
posterior 
sclera/choroid (series 11, image 9) demonstrating asymmetric 
enhancement 
(series 100a, image 41).  A 6 x 8 mm nodular focus of FLAIR 
hyperintense 
signal in the posterior inferior left globe is identified 
(series 11, image 8 and 9) without definitive abnormal 
corresponding T2 or postcontrast T1 signal, potentially 
representing volume averaging through the inferior oblique. 
 
1.  Numerous calvarial metastatic deposits, some breaking 
through the inner table and abutting the dura.  Enhancing 
lesions of the upper cervical vertebral bodies are also 
concerning for metastatic disease. 
2.  The largest lesion is at the vertex and shows evidence of 
dural and likely brain invasion as described above.  This lesion 
also invades the superior sagittal sinus results in at least 
partial focal obstruction.  
3.  Right anterior cranial fossa dural based metastatic deposit 
measuring 
approximately 1 cm.  
4.  Multiple subcentimeter supra and infratentorial parenchymal 
metastases. 
5.  Apparent abnormal enhancing FLAIR hyperintense thickening of 
the left 
posterior choroid/sclera for which further evaluation with 
dedicated MRI 
orbits is recommended to exclude metastatic disease. 
6.  Linear enhancement within the right Meckel's cave is felt to 
most likely represent venous structure.  However, close 
attention on followup is recommended. 
7.  No evidence of hemorrhage or infarction.  Additional 
findings as described above. 
RECOMMENDATION(S):  Recommend MRI orbits for further evaluation 
of impression 5. 
 
Brief Hospital Course:
___ female with history of metastatic breast cancer s/p 
mastectomy in ___ with known metastasis to hip, lung and liver 
now presenting with low back pain and leg weakness worsening 
over the past 3 weeks. 

MRI spine was performed on presentation to ED that demonstrated 
multiple osseous lesions throughout the thoracolumbar spine, 
compatible with osseous metastasis, with mild loss of T9 
vertebral body height. She had no evidence of neoplastic cord 
compression or cord edema. However, postcontrast imaging would 
have been helpful to evaluate for enhancing soft tissue 
component but this was not performed. Ortho spine was consulted 
in the ED and did not recommend any urgent interventions. 
Radiation oncology was also consulted and planned to see patient 
on HD2. She admitted to the medicine service for further care. 
On admission, patient denied active treatment for cancer. Her 
neuro exam was notable for unsteady gait with no motor or 
sensory loss on exam. On HD2 patient stated she wanted to leave 
as she felt her sciatica was not being addressed. The psychiatry 
service was consulted to assist in assessing patient's capacity 
given history of schizophrenia and concern for paranoia. We 
additionally spoke with Ms. ___ sister who stated 
that the patient often becomes confused and overwhelmed with 
some denial of her serious medical issues. This is likely why 
the patient denied having known metastatic disease on admission. 


Given her change in mental status a CT head on ___ was 
performed and patient was found to have metastatic disease to 
the brain with lytic lesion in the right vertex with 
intracranial extension and edema. MRI brain from ___ showed 
large lesion at the vertex measuring 37 x 38 x 28 mm with 
intracranial extension and enhancing soft tissue extending along 
the parietal dura and falx, surrounding the superior sagittal 
sinus. Initiated Dexamethasone 2mg BID following discussion with 
Dr. ___ at ___. Given concern for mental status 
changes with initiation of steroids, patient will stay overnight 
with her sister ___ on ___.

Patient was evaluated by physical therapy. She is safe to go 
home with a cane. They recommended outpatient physical therapy 
for her back pain and recent R arm fracture. 

Throughout her stay, we were also able to speak with her 
oncologist (Dr. ___ who informed us that patient had known 
metastatic disease to the spine and was actively undergoing 
treatment at ___ for her known metastatic breast cancer. For 
this reason she was discharged with plan to follow-up with Dr. 
___ on ___ at 10am. Discussed treatment plan with sister 
___ ___. 

#Full code
___ ___

Transitional Issues:
===================
-Imaging concerning for worsening metastatic disease. Patient 
discharged with CD of imaging studies. 
- Recommend MRI orbits to follow up MRI brain.
- Recommend outpatient physical therapy for back pain and 
shoulder pain (patient given script). 
- Patient should follow up with her psychiatrist as an 
outpatient. She was given Ativan 0.25mg during admission for 
anxiety. She will be discharged with 2 tablets. 
- Per radiation oncology patient requires further evaluation of 
her R humerus fracture. It is possible that this is due to 
occult metastatic disease, in which case additional management 
including RT may be required. We recommend repeat plain films of 
the R humerus to assess healing and whether there is any 
evidence of bony metastasis at this site.

- MRI Thoracic/lumbar spine read:
1. Multiple osseous lesions throughout the thoracolumbar spine, 
compatible with osseous metastasis, with mild loss of T9 
vertebral body height. 
2. No evidence of neoplastic cord compression or cord edema. 
However, post contrast imaging would be helpful to evaluate for 
enhancing soft tissue component. 
3. Focal disc protrusion at T7-8 flattening the right anterior 
aspect of the spinal cord. 
4. Numerous liver lesions, suspicious for liver metastasis. 
5. Right perihilar spiculated mass with possible postobstructive 
atelectasis, which is difficult to further characterize on MRI 
imaging. 

- CT head read:
1. Innumerable calvarial lytic lesions consistent with 
metastatic disease. 
The dominant lytic lesion in the right vertex demonstrates 
involvement of the
falx and intracranial extension with associated brain edema 
suggesting brain
invasion. MRI of the brain can further evaluate brain 
parenchymal
involvement.
2. Choroid thickening of the left eye, concerning for metastatic 
disease.

-MRI head read:
1. Numerous calvarial metastatic deposits, some breaking through 
the inner 
table and abutting the dura. Enhancing lesions of the upper 
cervical 
vertebral bodies are also concerning for metastatic disease. 
2. The largest lesion is at the vertex and shows evidence of 
dural and likely 
brain invasion as described above. This lesion also invades the 
superior 
sagittal sinus results in at least partial focal obstruction. 
3. Right anterior cranial fossa dural based metastatic deposit 
measuring 
approximately 1 cm. 
4. Multiple subcentimeter supra and infratentorial parenchymal 
metastases. 
5. Apparent abnormal enhancing FLAIR hyperintense thickening of 
the left 
posterior choroid/sclera for which further evaluation with 
dedicated MRI 
orbits is recommended to exclude metastatic disease. 
6. Linear enhancement within the right Meckel's cave is felt to 
most likely represent venous structure. However, close attention 
on followup is 
recommended. 
7. No evidence of hemorrhage or infarction. Additional findings 
as described 
above. 
RECOMMENDATION(S): Recommend MRI orbits for further evaluation 
of impression 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
2. RisperiDONE Long Acting Injection 25 mg IM EVERY 3 WEEKS 
3. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain - 
Severe 
4. Exemestane 25 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Dexamethasone 2 mg PO Q12H 
RX *dexamethasone 2 mg 1 tablet(s) by mouth Twice daily Disp #*4 
Tablet Refills:*0 
3.  LORazepam 0.25 mg PO Q4H:PRN anxiety  
RX *lorazepam 0.5 mg 0.5 (One half) tablet by mouth Every six 
hours as needed Disp #*2 Tablet Refills:*0 
4.  Nicotine Patch 14 mg TD DAILY  
5.  Exemestane 25 mg PO DAILY  
6.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Severe  
7.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
8.  Multivitamins 1 TAB PO DAILY  
9.  RisperiDONE Long Acting Injection 25 mg IM EVERY 3 WEEKS  
10.Outpatient Physical Therapy
ICD C50.919
Patient requires outpatient physical therapy for back pain 
secondary to metastatic cancer and recent R humerus fracture. 
11.straight cane
C50.919
Px: good
___: 13 ms

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
metastatic breast cancer 
back pain 
Secondary diagnosis:
schizophrenia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___ McGee,
It was a pleasure taking care of you at ___.  

Why was I here?
- You had back pain
What was done while I was here?
- You had an MRI of your back that showed cancer that has spread 
(metastasis).  
- You got a CT scan and MRI of your head.  You will discuss the 
results with your oncologist.  
- You got medicine for the pain.
- We spoke with your oncologist Dr. ___. He will see you in 
clinic tomorrow.
- The psychiatrist also saw you.  
What should I do when I leave?
- Please follow up with your oncologist ___ at 10am.
- Please take a new medication Dexamethasone 2mg twice daily.
- Please discuss with your psychiatrist or oncologist starting 
any new psychiatric medications including lorazepam.  
 
Followup Instructions:
___